US03996282
A stirred mixture of 157 parts of N-(3-dimethylaminopropyl)formamide in 20.0 parts of water was heated to 80° C. and over a period of one and one half hours there was added 171 parts of N-ethyl-N-(2-chloroethyl)aniline. The reaction mixture was heated at 95°-100° C. until a small sample when diluted with water gave a clear solution. After about seven hours of heating at 95°-100° C. there was obtained N,N-dimethyl-N-2-(N'-ethylanilino)ethyl-N-3-formamidopropylammonium chloride in the form of an aqueous solution.

reactant | N-(3-dimethylaminopropyl)formamide | CN(CCCNC=O)C | C6H14N2O
reactant | N-ethyl-N-(2-chloroethyl)aniline | C(C)N(C1=CC=CC=C1)CCCl | C10H14ClN
solvent | water | O | H2O
product | N,N-dimethyl-N-2-(N'-ethylanilino)ethyl-N-3-formamidopropylammonium chloride | [Cl-].C[N+](CCCNC=O)(CCN(C1=CC=CC=C1)CC)C | InChI=1S/C16H27N3O.ClH/c1-4-18(16-9-6-5-7-10-16)12-14-19(2,3)13-8-11-17-15-20;/h5-7,9-10,15H,4,8,11-14H2,1-3H3;1H
